* Subcircuit 74HCT356
.subckt 74HCT356 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ unconnected-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ unconnected-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ unconnected-_u1-pad20_ 
.title kicad schematic
.include 4_and.sub
.include 3_and.sub
x5 net-_u16-pad6_ net-_u14-pad5_ net-_u15-pad6_ net-_u9-pad6_ net-_u19-pad2_ 4_and
x4 net-_u14-pad5_ net-_u16-pad5_ net-_u15-pad6_ net-_u8-pad6_ net-_u18-pad2_ 4_and
x3 net-_u16-pad6_ net-_u14-pad5_ net-_u15-pad5_ net-_u7-pad6_ net-_u17-pad2_ 4_and
x2 net-_u14-pad5_ net-_u16-pad5_ net-_u15-pad5_ net-_u6-pad6_ net-_u17-pad1_ 4_and
* u22 net-_u21-pad3_ net-_u22-pad2_ net-_u22-pad3_ d_or
* u24 net-_u23-pad3_ net-_u24-pad2_ d_inverter
* u26 net-_u24-pad2_ net-_u25-pad2_ net-_u26-pad3_ d_tristate
* u25 net-_u24-pad2_ net-_u25-pad2_ net-_u1-pad19_ d_tristate
* u27 net-_u26-pad3_ net-_u1-pad18_ d_inverter
* u20 net-_u19-pad3_ net-_u20-pad2_ net-_u20-pad3_ d_or
* u19 net-_u18-pad3_ net-_u19-pad2_ net-_u19-pad3_ d_or
* u17 net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ d_or
* u18 net-_u17-pad3_ net-_u18-pad2_ net-_u18-pad3_ d_or
x6 net-_u16-pad5_ net-_u15-pad5_ net-_u14-pad6_ net-_u10-pad6_ net-_u20-pad2_ 4_and
x8 net-_u16-pad5_ net-_u15-pad6_ net-_u14-pad6_ net-_u12-pad6_ net-_u22-pad2_ 4_and
x7 net-_u16-pad6_ net-_u15-pad5_ net-_u14-pad6_ net-_u11-pad6_ net-_u21-pad2_ 4_and
* u9 net-_u1-pad4_ net-_u10-pad2_ unconnected-_u9-pad3_ unconnected-_u9-pad4_ unconnected-_u9-pad5_ net-_u9-pad6_ d_dff
* u10 unconnected-_u10-pad1_ net-_u10-pad2_ unconnected-_u10-pad3_ unconnected-_u10-pad4_ unconnected-_u10-pad5_ net-_u10-pad6_ d_dff
* u11 net-_u1-pad6_ net-_u10-pad2_ unconnected-_u11-pad3_ unconnected-_u11-pad4_ unconnected-_u11-pad5_ net-_u11-pad6_ d_dff
* u6 net-_u1-pad1_ net-_u10-pad2_ unconnected-_u6-pad3_ unconnected-_u6-pad4_ unconnected-_u6-pad5_ net-_u6-pad6_ d_dff
* u7 net-_u1-pad2_ net-_u10-pad2_ unconnected-_u7-pad3_ unconnected-_u7-pad4_ unconnected-_u7-pad5_ net-_u7-pad6_ d_dff
* u8 net-_u1-pad3_ net-_u10-pad2_ unconnected-_u8-pad3_ unconnected-_u8-pad4_ unconnected-_u8-pad5_ net-_u8-pad6_ d_dff
* u21 net-_u20-pad3_ net-_u21-pad2_ net-_u21-pad3_ d_or
* u23 net-_u22-pad3_ net-_u23-pad2_ net-_u23-pad3_ d_or
x9 net-_u16-pad6_ net-_u15-pad6_ net-_u14-pad6_ net-_u13-pad6_ net-_u23-pad2_ 4_and
* u16 net-_u1-pad14_ net-_u14-pad2_ unconnected-_u16-pad3_ unconnected-_u16-pad4_ net-_u16-pad5_ net-_u16-pad6_ d_dlatch
* u14 net-_u1-pad12_ net-_u14-pad2_ unconnected-_u14-pad3_ unconnected-_u14-pad4_ net-_u14-pad5_ net-_u14-pad6_ d_dlatch
* u2 net-_u1-pad11_ net-_u14-pad2_ d_inverter
x1 net-_u4-pad2_ net-_u3-pad2_ net-_u1-pad17_ net-_u25-pad2_ 3_and
* u4 net-_u1-pad15_ net-_u4-pad2_ d_inverter
* u3 net-_u1-pad16_ net-_u3-pad2_ d_inverter
* u15 net-_u1-pad13_ net-_u14-pad2_ unconnected-_u15-pad3_ unconnected-_u15-pad4_ net-_u15-pad5_ net-_u15-pad6_ d_dlatch
* u13 net-_u1-pad8_ net-_u10-pad2_ unconnected-_u13-pad3_ unconnected-_u13-pad4_ unconnected-_u13-pad5_ net-_u13-pad6_ d_dff
* u5 net-_u1-pad9_ net-_u10-pad2_ d_inverter
* u12 net-_u1-pad7_ net-_u10-pad2_ unconnected-_u12-pad3_ unconnected-_u12-pad4_ unconnected-_u12-pad5_ net-_u12-pad6_ d_dff
a1 [net-_u21-pad3_ net-_u22-pad2_ ] net-_u22-pad3_ u22
a2 net-_u23-pad3_ net-_u24-pad2_ u24
a3 net-_u24-pad2_ net-_u25-pad2_ net-_u26-pad3_ u26
a4 net-_u24-pad2_ net-_u25-pad2_ net-_u1-pad19_ u25
a5 net-_u26-pad3_ net-_u1-pad18_ u27
a6 [net-_u19-pad3_ net-_u20-pad2_ ] net-_u20-pad3_ u20
a7 [net-_u18-pad3_ net-_u19-pad2_ ] net-_u19-pad3_ u19
a8 [net-_u17-pad1_ net-_u17-pad2_ ] net-_u17-pad3_ u17
a9 [net-_u17-pad3_ net-_u18-pad2_ ] net-_u18-pad3_ u18
a10 net-_u1-pad4_ net-_u10-pad2_ unconnected-_u9-pad3_ unconnected-_u9-pad4_ unconnected-_u9-pad5_ net-_u9-pad6_ u9
a11 unconnected-_u10-pad1_ net-_u10-pad2_ unconnected-_u10-pad3_ unconnected-_u10-pad4_ unconnected-_u10-pad5_ net-_u10-pad6_ u10
a12 net-_u1-pad6_ net-_u10-pad2_ unconnected-_u11-pad3_ unconnected-_u11-pad4_ unconnected-_u11-pad5_ net-_u11-pad6_ u11
a13 net-_u1-pad1_ net-_u10-pad2_ unconnected-_u6-pad3_ unconnected-_u6-pad4_ unconnected-_u6-pad5_ net-_u6-pad6_ u6
a14 net-_u1-pad2_ net-_u10-pad2_ unconnected-_u7-pad3_ unconnected-_u7-pad4_ unconnected-_u7-pad5_ net-_u7-pad6_ u7
a15 net-_u1-pad3_ net-_u10-pad2_ unconnected-_u8-pad3_ unconnected-_u8-pad4_ unconnected-_u8-pad5_ net-_u8-pad6_ u8
a16 [net-_u20-pad3_ net-_u21-pad2_ ] net-_u21-pad3_ u21
a17 [net-_u22-pad3_ net-_u23-pad2_ ] net-_u23-pad3_ u23
a18 net-_u1-pad14_ net-_u14-pad2_ unconnected-_u16-pad3_ unconnected-_u16-pad4_ net-_u16-pad5_ net-_u16-pad6_ u16
a19 net-_u1-pad12_ net-_u14-pad2_ unconnected-_u14-pad3_ unconnected-_u14-pad4_ net-_u14-pad5_ net-_u14-pad6_ u14
a20 net-_u1-pad11_ net-_u14-pad2_ u2
a21 net-_u1-pad15_ net-_u4-pad2_ u4
a22 net-_u1-pad16_ net-_u3-pad2_ u3
a23 net-_u1-pad13_ net-_u14-pad2_ unconnected-_u15-pad3_ unconnected-_u15-pad4_ net-_u15-pad5_ net-_u15-pad6_ u15
a24 net-_u1-pad8_ net-_u10-pad2_ unconnected-_u13-pad3_ unconnected-_u13-pad4_ unconnected-_u13-pad5_ net-_u13-pad6_ u13
a25 net-_u1-pad9_ net-_u10-pad2_ u5
a26 net-_u1-pad7_ net-_u10-pad2_ unconnected-_u12-pad3_ unconnected-_u12-pad4_ unconnected-_u12-pad5_ net-_u12-pad6_ u12
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u22 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u26 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u25 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u20 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u19 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u17 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u18 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u9 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u10 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u11 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u6 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u7 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u8 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u21 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u23 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u16 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u14 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u15 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u13 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u12 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Control Statements

.ends 74HCT356