.title kicad schematic

.include NMOS-5um.lib
.include PMOS-5um.lib
m5 net-_m1-pad1_ net-_m10-pad2_ gnd gnd mos_n W=100u L=100u M=1
m10 net-_m1-pad1_ net-_m10-pad2_ net-_m10-pad3_ net-_m10-pad3_ mos_p W=100u L=100u M=1
m8 net-_m8-pad1_ net-_m3-pad2_ net-_m7-pad1_ net-_m7-pad1_ mos_p W=100u L=100u M=1
m9 net-_m10-pad3_ net-_m4-pad2_ net-_m8-pad1_ net-_m8-pad1_ mos_p W=100u L=100u M=1
m6 net-_m6-pad1_ net-_m1-pad2_ net-_m16-pad3_ net-_m16-pad3_ mos_p W=100u L=100u M=1
m7 net-_m7-pad1_ net-_m2-pad2_ net-_m6-pad1_ net-_m6-pad1_ mos_p W=100u L=100u M=1
m3 net-_m1-pad1_ net-_m3-pad2_ gnd gnd mos_n W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ gnd gnd mos_n W=100u L=100u M=1
m4 net-_m1-pad1_ net-_m4-pad2_ gnd gnd mos_n W=100u L=100u M=1
m2 net-_m1-pad1_ net-_m2-pad2_ gnd gnd mos_n W=100u L=100u M=1
m11 net-_m11-pad1_ net-_m11-pad2_ gnd gnd mos_n W=100u L=100u M=1
m13 net-_m11-pad1_ net-_m13-pad2_ gnd gnd mos_n W=100u L=100u M=1
m12 net-_m11-pad1_ net-_m12-pad2_ gnd gnd mos_n W=100u L=100u M=1
m17 net-_m17-pad1_ net-_m12-pad2_ net-_m16-pad1_ net-_m16-pad1_ mos_p W=100u L=100u M=1
m16 net-_m16-pad1_ net-_m11-pad2_ net-_m16-pad3_ net-_m16-pad3_ mos_p W=100u L=100u M=1
m20 net-_m11-pad1_ net-_m15-pad2_ net-_m19-pad1_ net-_m19-pad1_ mos_p W=100u L=100u M=1
* u1 net-_m1-pad2_ net-_m2-pad2_ net-_m3-pad2_ net-_m11-pad2_ net-_m1-pad1_ net-_m11-pad1_ gnd net-_m12-pad2_ net-_m13-pad2_ net-_m14-pad2_ net-_m15-pad2_ net-_m4-pad2_ net-_m10-pad2_ net-_m16-pad3_ port
m15 net-_m11-pad1_ net-_m15-pad2_ gnd gnd mos_n W=100u L=100u M=1
m19 net-_m19-pad1_ net-_m14-pad2_ net-_m18-pad1_ net-_m18-pad1_ mos_p W=100u L=100u M=1
m18 net-_m18-pad1_ net-_m13-pad2_ net-_m17-pad1_ net-_m17-pad1_ mos_p W=100u L=100u M=1
m14 net-_m11-pad1_ net-_m14-pad2_ gnd gnd mos_n W=100u L=100u M=1
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
